US05929074
4-Chloro-5-[3-{4-(2-quinolylmethyl)-piperazin-1-yl}-carbonylmethoxy-4-methoxybenzylamino]-6-ethoxy-3(2H)-pyridazinone
A mixture comprising 2.4 g of 3-[4-(2-quinolylmethyl)-piperazin-1-yl]-carbonylmethoxy-4-methoxybenzylamine, 1 g of 4,5-dichloro-6-ethoxy-3(2H)-pyridazinone, 580 mg of triethylamine, 10 ml of propanol and 10 ml of water, was refluxed under heating with stirring overnight. The solvent was distilled off under reduced pressure, and the residue was extracted with chloroform. The organic layer was washed with an aqueous potassium carbonate solution and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off. The obtained residue was purified by silica gel column chromatography (ethyl acetate:methanol=6:1→chloroform:methanol=12:1) and then crystallized from diethyl ether to obtain 1.5 g of the above-identified compound as white crystals.

reactant | 3-[4-(2-quinolylmethyl)-piperazin-1-yl]-carbonylmethoxy-4-methoxybenzylamine | 2.4 g | N1=C(C=CC2=CC=CC=C12)CN1CCN(CC1)C=1C=C(CNOC=C=O)C=CC1OC | C24H26N4O3
reactant | 4,5-dichloro-6-ethoxy-3(2H)-pyridazinone | 1 g | ClC=1C(NN=C(C1Cl)OCC)=O | C6H6Cl2N2O2
reactant | triethylamine | 580 mg | C(C)N(CC)CC | C6H15N
reactant | propanol | 10 ml | C(CC)O | C3H8O
solvent | water | 10 ml | O | H2O
product | 4-Chloro-5-[3-{4-(2-quinolylmethyl)-piperazin-1-yl}-carbonylmethoxy-4-methoxybenzylamino]-6-ethoxy-3(2H)-pyridazinone | 1.5 g | ClC=1C(NN=C(C1N(CC1=CC(=C(C=C1)OC)N1CCN(CC1)CC1=NC2=CC=CC=C2C=C1)OC=C=O)OCC)=O | C30H31ClN6O5
